US07030128B2
2-Bromo-6-cyclopentylpyridine (479 mg, 2.1 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.4 mmol) by the method of Example 1 to give 3-(6-cyclopentylpyridin-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (49 mg) as a white solid: δH (400 MHz, DMSO) 1.70-1.87 (6H, m), 2.10-2.16 (2H, m), 7.29 (1H, d, J 7.4), 7.80 (1H, d, J 7.0), 7.87 (1H, t, J 7.8), 7.95-7.97 (1H, m), 8.84 (1H, s), 10.50 (1H, d, J 6.7); m/z (ES+) 332 (M++H).

reactant | 2-Bromo-6-cyclopentylpyridine | 2.1 mmol, 479 mg | BrC1=NC(=CC=C1)C1CCCC1 | C10H12BrN
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.4 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-(6-cyclopentylpyridin-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 49 mg | C1(CCCC1)C1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C17H15F3N4
